US07737166B2
Dimethyl 2-(4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)malonate (I-294)
2-Cyclopropyl-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-173) (2.69 g, 9.20 mmol) was dissolved in dimethyl sulfoxide (50 ml), then at room temperature, potassium carbonate (3.82 g, 27.61 mmol) and dimethyl malonate (2.1 ml, 18.41 mmol) were added. The solution was stirred under nitrogen atmosphere at 90° C. for 14 hours. The reaction liquid was cooled to room temperature, then ethyl acetate and water were added to the reaction liquid, followed by vigorously stirring for 10 minutes. The aqueous layer was separated, extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, then dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=3:1, v/v) to obtain the entitled compound (2.878 g, 77%) as a colorless gel

reactant | 2-Cyclopropyl-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 9.20 mmol, 2.69 g | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C18H13FN2O
reactant | potassium carbonate | 27.61 mmol, 3.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl malonate | 18.41 mmol, 2.1 ml | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Dimethyl 2-(4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)malonate | 2.878 g, 77% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)C(C(=O)OC)C(=O)OC)C2=CC=CC=C2)C | C23H20N2O5
